US07491735B2
To a solution of 4-bromochlorobenzene (1.35 g, 7.03 mmol) in THF (30 mL) cooled to −78° C. was added n-BuLi (2.5M in THF, 3.00 mL, 7.5 mmol) and the mixture was stirred at −78° C. for 30 minutes. TMEDA (1.06 mL, 7.02 mmol) and 4-formyl-piperidine-1-carboxylic acid tert-butyl ester (1.00 g, 4.69 mmol) in THF (10 mL) were added and the mixture stirred at −78° C. for 3 hours. The reaction was quenched with saturated aqueous NH4Cl (30 mL) and after work-up and purification afforded 4-[(4-chloro-phenyl)-hydroxy-methyl]-piperidine-1-carboxylic acid tert-butyl ester as a white solid (450 mg, 30%).

reactant | 4-bromochlorobenzene | 7.03 mmol, 1.35 g | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | n-BuLi | 7.5 mmol, 2.5M, 3.00 mL | [Li]CCCC
reactant | TMEDA | 7.02 mmol, 1.06 mL | CN(C)CCN(C)C | C6H16N2
reactant | 4-formyl-piperidine-1-carboxylic acid tert-butyl ester | 4.69 mmol, 1.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=O | C11H19NO3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-[(4-chloro-phenyl)-hydroxy-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 450 mg, 30% | C(C)(C)(C)OC(=O)N1CCC(CC1)C(O)C1=CC=C(C=C1)Cl | C17H24ClNO3
